US08492378B2
tert-butyl[4-[[2-[3-[3-(trifluoromethyl)phenyl]propanoyl]hydrazino]carbonyl]-2-pyridyl]carbamate
In the same manner as in Reference Example 1 and using 3-[3-(trifluoromethyl)phenyl]propionic acid instead of benzothiazole-6-carboxylic acid and tert-butyl[4-(hydrazinocarbonyl)-2-pyridyl]carbamate instead of tert-butyl carbazate, the title compound (yield 80%) was obtained as colorless crystals.

reactant | 3-[3-(trifluoromethyl)phenyl]propionic acid | FC(C=1C=C(C=CC1)CCC(=O)O)(F)F | C10H9F3O2
reactant | tert-butyl[4-(hydrazinocarbonyl)-2-pyridyl]carbamate | C(C)(C)(C)OC(NC1=NC=CC(=C1)C(=O)NN)=O | C11H16N4O3
product | tert-butyl[4-[[2-[3-[3-(trifluoromethyl)phenyl]propanoyl]hydrazino]carbonyl]-2-pyridyl]carbamate | yield 80% | C(C)(C)(C)OC(NC1=NC=CC(=C1)C(=O)NNC(CCC1=CC(=CC=C1)C(F)(F)F)=O)=O | C21H23F3N4O4
